US05459270
EXAMPLE 17: (2S,3S)-1-Benzyl-3-((3,5-bis(trifluoromethyl) phenyl)methyloxy)-2-phenylpiperidine
Benzyl bromide (0.134 ml) was added to a mixture of (+)-cis-3-((3,5-bis(trifluoromethyl)phenyl)methyloxy)-2-phenyl piperidine (prepared from the hydrochloride salt, Example 5) (0.5 g) and potassium carbonate (0.468 g) in N,N-dimethylformamide (2 ml) and the mixture stirred at 23° C. for 2.5 h. Water (20 ml) was added and the mixture extracted with ethyl acetate (3×15 ml). The combined organic extracts were washed with water (1×10 ml) and brine (1×10 ml) then dried (K2CO3) and concentrated to leave an oil. Purification on silica gel eluting with hexanes-ethyl acetate (19:1 then 9:1 then 4:1 then 1:1) provided the title compound as a solid, m.p.=89°-93° C. Found: C, 66.11; H, 5.25; N, 2.81. Calcd. for C27H25NOF6 ; C, 65.71; H, 5.11; N, 2.84%.

reactant | Benzyl bromide | 0.134 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | (+)-cis-3-((3,5-bis(trifluoromethyl)phenyl)methyloxy)-2-phenyl piperidine | FC(C=1C=C(C=C(C1)C(F)(F)F)CO[C@@H]1[C@@H](NCCC1)C1=CC=CC=C1)(F)F | C20H19F6NO
reactant | potassium carbonate | 0.468 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | 20 ml | O | H2O
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | (2S,3S)-1-Benzyl-3-((3,5-bis(trifluoromethyl) phenyl)methyloxy)-2-phenylpiperidine | C(C1=CC=CC=C1)N1[C@H]([C@H](CCC1)OCC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C1=CC=CC=C1 | C27H25F6NO
